US05217964
Step b: 1,9-Bis[(4-methylmercaptophenyl)methyl]-1,5,9-triazanonane
Dissolve 1,5,9-triazanonane (655 mg, 0.005 mol) in methanol (distilled from Mg) (50 mL) and add 4-(methylthio)benzaldehyde (1.52 g, 0.01 mol), sodium cyanoborohydride (0.62 g, 0.010 mol) and 1 drop of 1% bromocresol green in ethanol. Maintain the pH of the reaction with 1N hydrochloric acid in methanol until the indicator no longer changes. Evaporate the solvent in vacuo and partition the residue between 1N sodium hydroxide (50 mL) and ethyl acetate (100 mL). Separate the organic phase, dry (MgSO4) and evaporate the solvent in vacuo and purify by silica gel chromatography to give the title compound.

reactant | 1,5,9-triazanonane | 0.005 mol, 655 mg | NCCCNCCCN | C6H17N3
reactant | 4-(methylthio)benzaldehyde | 0.01 mol, 1.52 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | sodium cyanoborohydride | 0.010 mol, 0.62 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
catalyst | bromocresol green | 1 drop | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
solvent | ethanol | C(C)O | C2H6O
product | 1,9-Bis[(4-methylmercaptophenyl)methyl]-1,5,9-triazanonane | CSC1=CC=C(C=C1)CNCCCNCCCNCC1=CC=C(C=C1)SC | C22H33N3S2
